US08497368B2
1-(6-Chloroimidazo[1,2-b]pyridazin-3-yl)-1-(6-fluoro-1-methyl-1H-indazol-5-yl)ethanol (68.1)
To a solution of 5-bromo-6-fluoro-1-methyl-1H-indazole (1.800 g, 7.86 mmol) in THF (79 ml) at −100° C., was added n-BuLi (5.40 ml, 8.64 mmol) dropwise. After stirring for 1 h at −100° C., 1-(6-chloroimidazo[1,2-b]pyridazin-3-yl)ethanone (1.691 g, 8.64 mmol) in THF (20 mL) was added dropwise. The reaction solution was stirred for additional 2 h and was quenched with NH4Cl (aq). The resulting mixture was extracted with EtOAc. Combined organic layers were washed with NH4Cl(aq), dried over Na2SO4 and concentrated in vacuo to afford a crude product, which was purified on silica gel column chromatography (Hexanes:EtOAc) to give the title compound in 34% yield. LCMS (method B): [MH]+=346, tR=2.14 min.

reactant | 5-bromo-6-fluoro-1-methyl-1H-indazole | 7.86 mmol, 1.800 g | BrC=1C=C2C=NN(C2=CC1F)C | C8H6BrFN2
reactant | n-BuLi | 8.64 mmol, 5.40 ml | [Li]CCCC
reactant | 1-(6-chloroimidazo[1,2-b]pyridazin-3-yl)ethanone | 8.64 mmol, 1.691 g | ClC=1C=CC=2N(N1)C(=CN2)C(C)=O | C8H6ClN3O
solvent | THF | 79 ml | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(6-Chloroimidazo[1,2-b]pyridazin-3-yl)-1-(6-fluoro-1-methyl-1H-indazol-5-yl)ethanol | 34% yield | ClC=1C=CC=2N(N1)C(=CN2)C(C)(O)C=2C=C1C=NN(C1=CC2F)C | C16H13ClFN5O
